US07816391B2
2-Adamantanamine hydrochloride (1.641 g, 8.74 mmol) was added to 5-(cyclopentanecarbonyl)-2,2-dimethyl-1,3-dioxane-4,6-dione (Intermediate#77), (2.1 g, 8.74 mmol) and N-Ethyldiisopropylamine (1.512 mL, 8.74 mmol) in toluene (30 mL). The resulting suspension was stirred at 110° C. for 2 hours. The reaction mixture was diluted with EtOAc (100 mL), and washed sequentially with 2M HCl (20 mL), and water (2×50 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 100% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford N-(2-adamantyl)-3-cyclopentyl-3-oxo-propanamide (1.030 g, 40.7%) as a brown oil which crystallised on standing.

reactant | 2-Adamantanamine hydrochloride | 8.74 mmol, 1.641 g | Cl.C12C(C3CC(CC(C1)C3)C2)N
reactant | 5-(cyclopentanecarbonyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 8.74 mmol, 2.1 g | C1(CCCC1)C(=O)C1C(OC(OC1=O)(C)C)=O | C12H16O5
reactant | N-Ethyldiisopropylamine | 8.74 mmol, 1.512 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-(2-adamantyl)-3-cyclopentyl-3-oxo-propanamide | 1.030 g, 40.7% | C12C(C3CC(CC(C1)C3)C2)NC(CC(=O)C2CCCC2)=O | C18H27NO2
